US04766121
5-Bromo-2-methoxypyridine (15.87 g) was dissolved in dry tetrahydrofuran (50 ml) and the solution cooled with mechanical stirring under nitrogen to -100° (ether/liquid nitrogen). A solution of n-butyl lithium in hexane (53 ml of a 1.6M solution) was added dropwise, maintaining the temperature below -90°; a white precipitate appeared. After 5 minutes, 5-benzyloxy-2-methoxybenzaldehyde (17.04 g) in dry tetrahydrofuran (150 ml) was added dropwise, maintaining the temperature below -95°. After the addition was complete, the mixture was stirred to 5°. The dark solution was quenched with excess saturated ammonium chloride, the organic layer removed, the aqueous extracted with ethyl acetate, then the combined organics dried with anhydrous magnesium sulphate and evaporated. The residue crystallised from ether/petroleum spirit to give 1-(5-benzyloxy-2-methoxyphenyl)-1-(6-methoxy-3-pyridyl)methanol (17.83 g, 72%), m.p. 80°-82°.

reactant | 5-Bromo-2-methoxypyridine | 15.87 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | ether | CCOCC | C4H10O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5-benzyloxy-2-methoxybenzaldehyde | 17.04 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)OC | C15H14O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(5-benzyloxy-2-methoxyphenyl)-1-(6-methoxy-3-pyridyl)methanol | 17.83 g, 72% | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)OC)OC | C21H21NO4
